US08431573B2
2-(2-Ethoxybenzyl)-4-[4-(2-hydroxyethyl)-1-piperidinyl]-6-oxo-1,6-dihydro-5-pyrimidine-carbonitrile
0.1 g (0.37 mmol) of 2-(2-ethoxybenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile is heated with 0.13 g (0.99 mmol) of 2-(4-piperidinyl)ethan-1-ol in 3 ml of acetonitrile at 90° C. under argon for five days. After cooling to room temperature, the crude product is purified by preparative HPLC. 45 mg (43% of theory) of the title compound are obtained as a colourless solid.

reactant | 2-(2-ethoxybenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | 0.37 mmol, 0.1 g | C(C)OC1=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC=C1 | C15H15N3O2S
reactant | 2-(4-piperidinyl)ethan-1-ol | 0.99 mmol, 0.13 g | N1CCC(CC1)CCO | C7H15NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-(2-Ethoxybenzyl)-4-[4-(2-hydroxyethyl)-1-piperidinyl]-6-oxo-1,6-dihydro-5-pyrimidine-carbonitrile | C(C)OC1=C(CC=2NC(C(=C(N2)N2CCC(CC2)CCO)C#N)=O)C=CC=C1 | C21H26N4O3
